US04025644
In 500 ml of a mixture of chloroform-tetrahydrofuran (2:1), were dissolved 29.9 g of N-(4-methoxybenzoyl)-phenylalanine, 23.2 g of methyl tyrosinate hydrochloride, 10.1 g of trethylamine and 11.6 g of H-hydroxysuccinimide and the mixture was cooled with ice. To the cold solution was added 20.6 g of N,N'-dicyclohexylcarbodiimide. The mixture was stirred for 2 hours and then allowed to sit at room temperature overnight. The precipitates were removed by filtration and the filtrate was concentrated. The residue was extracted with ethyl acetate. The extract was washed with 2% hydrochloric acid, 4% sodium bicarbonate and water, then dried and concentrated to dryness. The residue was crystallized from ethyl acetate to give 35 g of methyl N-(4-methoxybenzoyl)-phenylalanyltyrosinate with a mp. 195°-197° C. in a yield of 74%. Analysis, calculated for C27H28O6N2 : C, 68.05; H, 5.92; N, 5.88; found C, 67.84; H, 5.92; N, 5.57.

reactant | N-(4-methoxybenzoyl)-phenylalanine | 29.9 g | COC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C17H17NO4
reactant | methyl tyrosinate hydrochloride | 23.2 g | Cl.N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC
reactant | N,N'-dicyclohexylcarbodiimide | 20.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform tetrahydrofuran | C(Cl)(Cl)Cl.O1CCCC1
product | methyl N-(4-methoxybenzoyl)-phenylalanyltyrosinate | 35 g, yield of 74% | COC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)OC)C=C1 | C27H28N2O6
